US05637578
C. Synthesis of Boc-Gly-Ala-DAla-Gly-Gly-OBzl
To a solution of Boc-Gly-Ala prepared as in Example 33B (10.2 g, 41.5 mmol) in anhydrous DMF (300 ml), was added HOBT.circle-solid.H2O (6.21 g, 46.0 mmol), EDC.circle-solid.HCl (8.81 g, 46.0 mmol) and DAla-Gly-Gly-OBzl.circle-solid.HCl (13.7 g, 41.5 mmol). The pH of the resulting solution was adjusted to ~8 (measured by spotting the reaction mixture on moistened Hydrion paper) and the reaction mixture was allowed to stir at room temperature for 12 h thereafter. The solution was concentrated in vacuo and the residue was dissolved in water (40 ml). The resulting solution Was extracted with ethyl acetate (3×150 ml). The combined ethyl acetate layers were washed with 1N sodium bisulfate (100 ml), saturated sodium bicarbonate (100 ml) and brine (100ml). The ethyl acetate solution was dried (magnesium sulfate), filtered and concentrated to half volume. The product crystallized out upon standing at RT for 30 min. Collection of the crystals by filtration and drying at high vacuum afforded 17.4 g (80% yield) of the pure product: 1H NMR (DMSO-d6) δ 1.21 (d, J=7.4 Hz, 3H), 1.23 (d, J=7.3 Hz, 3H), 1.38 (s, 9H), 3.56 (d, J=6.3 Hz, 2H), 3.75 (d, J=5.7 Hz, 2H), 3.93 (d, J=6.0 Hz, 2H), 4.24-4.34 (m, 2H), 5.14 (s, 2H), 6.98 (t, J=5.7 Hz, 1H), 7.34-7.40 (m, 5H), 7.93 (d, J=7.2 Hz, 1H), 8.17-8.24 (m, 3H).

reactant | Boc-Gly-Ala | N(CC(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C10H18N2O5
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 46.0 mmol, 6.21 g | O | H2O
reactant | HCl | 46.0 mmol, 8.81 g | Cl | ClH
reactant | DAla-Gly-Gly-OBzl | N[C@H](C)C(=O)NCC(=O)NCC(=O)OCC1=CC=CC=C1 | C14H19N3O4
reactant | HCl | 41.5 mmol, 13.7 g | Cl | ClH
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | EDC
product | Boc-Gly-Ala-DAla-Gly-Gly-OBzl | 17.4 g, 80% yield | N(CC(=O)N[C@@H](C)C(=O)N[C@H](C)C(=O)NCC(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C24H35N5O8
